US05449686
16a. 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethoxy)cyclohexan-1-one dimethyl ketal
A solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(hydroxymethyl)cyclohexan-1-one dimethyl ketal (0.37 g, 1.02 mmol) in methylene chloride (5 mL) was added dropwise to a solution of diethylaminosulfur trifluoride (0.14 mL, 1.02 mmol) at -78° C. under an argon atmosphere. The mixture was allowed to warm to room temperature and after 0.75 h, 5aqueous sodium carbonate was added. The mixture was extracted with chloroform, the organic extract was dried (magnesium sulfate) and the solvent was removed in vacuo to provide a yellow oil (0.3 g, 80%).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(hydroxymethyl)cyclohexan-1-one dimethyl ketal | 1.02 mmol, 0.37 g | COC1(CCC(CC1)(CO)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C21H32O5
reactant | diethylaminosulfur trifluoride | 1.02 mmol, 0.14 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethoxy)cyclohexan-1-one dimethyl ketal | 0.3 g, 80% | COC1(CCC(CC1)(OCF)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C21H31FO5
